US07759369B2
{5-Chloro-2-[(phenylmethyl)oxy]phenyl}methanol
4-Chloro-2-(hydroxymethyl)phenol (5 g, 31 mmol), benzyl bromide (3.74 ml, 31 mmol), and potassium carbonate (4.78 g, 34 mmol) were refluxed in acetone (30 ml) for two hours. TLC showed no more SM (starting material). Cooled down, filtered off the solid and vacuumed down (the filtrate) to give a clear oil (8.2 g).

reactant | 4-Chloro-2-(hydroxymethyl)phenol | 31 mmol, 5 g | ClC1=CC(=C(C=C1)O)CO | C7H7ClO2
reactant | benzyl bromide | 31 mmol, 3.74 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 34 mmol, 4.78 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 30 ml | CC(=O)C | C3H6O
product | {5-Chloro-2-[(phenylmethyl)oxy]phenyl}methanol | 8.2 g | ClC=1C=CC(=C(C1)CO)OCC1=CC=CC=C1 | C14H13ClO2
